US07601716B2
1-(2-Chloro-3,6-difluorobenzyl)-7-[2-(4-methylpiperazin-1-yl)pyridin-4-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2-Chloro-3,6-difluorobenzyl)-7-(2-chloropyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (88 mg) was coupled to 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine as in General Procedure 4B to give the title compound as a light yellow solid (15% yield). LCMS: m/z=471.07 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.36 (3H, s), 2.56 (4H, t, J=4.9 Hz), 3.33 (2H, t, J=4.7 Hz), 3.55 (2H, m), 3.62 (4H, t, J=4.9 Hz), 4.53 (2H, s), 5.23 (1H, bs), 6.72 (1H, s), 6.78 (1H, dd, J=5.3, 1.3 Hz), 7.03 (2H, m), 7.12 (1H, m), 7.77 (1H, d, J=1.8 Hz), 8.18 (1H, d, J=5.1 Hz).

reactant | 1-(2-Chloro-3,6-difluorobenzyl)-7-(2-chloropyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 88 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC(=NC=C3)Cl)C(=CC=C1F)F | C19H14Cl2F2N4
reactant | 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | CN1CCN(CC1)C1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 1-(2-Chloro-3,6-difluorobenzyl)-7-[2-(4-methylpiperazin-1-yl)pyridin-4-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 15% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC(=NC=C3)N3CCN(CC3)C)C(=CC=C1F)F | C24H25ClF2N6
